US09034866B2
Synthesis of (R)-9-(3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-yn-1-yl)-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, 9-bromo-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide was reacted with (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol to give the titled compound as a colorless solid (5.2 mg, 14%).

reactant | 9-bromo-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide | BrC1=CC2=C(C3CC(C4=C2N=C(S4)C(=O)N)C3)C=C1 | C14H11BrN2OS
reactant | (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol | CC1=NC(=NO1)[C@@](C)(C#C)O | C7H8N2O2
product | (R)-9-(3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-yn-1-yl)-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide | 5.2 mg, 14% | O[C@@](C#CC1=CC2=C(C3CC(C4=C2N=C(S4)C(=O)N)C3)C=C1)(C)C1=NOC(=N1)C | C21H18N4O3S
